US08071592B2
(g) 1,1-Dimethylethyl {1-[2-(4-cyano-7-fluoro-2-oxo-1 (2H)-quinolinyl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate
A solution of 1-{2-[4-((2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}-7-fluoro-2-oxo-1,2-dihydro-4-quinolinyl trifluoromethanesulfonate (0.131 g, 0.19 mmol), zinc cyanide (0.027 g, 0.23 mmol), tris(dibenzylideneacetone)dipalladium (0.017 g, 0.019 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (0.042 g, 0.076 mmol) in DMF (3 ml) was degassed with argon then heated at 90° C. for 18 h. The mixture was allowed to cool then separated between ethyl acetate and brine. The organics were isolated, dried and concentrated. Chromatography (10 g silica SPE gradient elution with ethyl acetate/methanol 0-3%) provided the title compound (0.062 g, 58%) as a yellow oil.

reactant | 1-{2-[4-((2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}-7-fluoro-2-oxo-1,2-dihydro-4-quinolinyl trifluoromethanesulfonate | 0.19 mmol, 0.131 g | FC(S(=O)(=O)OC1=CC(N(C2=CC(=CC=C12)F)CCN1CCC(CC1)N(C(=O)OC(C)(C)C)CC1=CC2=C(C=N1)OCCO2)=O)(F)F | C30H34F4N4O8S
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.23 mmol, 0.027 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.019 mmol, 0.017 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.076 mmol, 0.042 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1,1-Dimethylethyl {1-[2-(4-cyano-7-fluoro-2-oxo-1 (2H)-quinolinyl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate | 0.062 g, 58% | C(#N)C1=CC(N(C2=CC(=CC=C12)F)CCN1CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)=O | C30H34FN5O5
